US04239901
The crude 2-[4-(pyrazol-1-yl)phenyl]propionic acid ethyl ester from (a) is boiled for 3 hours with 50 ml of 1 N solution of sodium hydroxide, and the thus-obtained solution is extracted with benzene. The aqueous phase is acidified with hydrochloric acid and extracted with benzene. The organic phase is then dried and concentrated; the residue is recrystallized from benzene/cyclohexane (1:1) to yield 1.7 g (80% of theory) of 2-[4-(pyrazol-1-yl)phenyl]propionic acid, m.p. 137° to 138° C.

reactant | 2-[4-(pyrazol-1-yl)phenyl]propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)N1N=CC=C1)=O | C14H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[4-(pyrazol-1-yl)phenyl]propionic acid | 1.7 g, 80% | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)O)C | C12H12N2O2
